US07635715B2
Step A: Preparation of Ethyl 4-(4-fluorophenyl)-tetrahydro-2H-pyran-4-carboxylate
A mixture of NaH (1.7 g, 71 mmol) in 100 mL NMP stirred at 0° C., was treated dropwise with a mixture of ethyl 2-(4-fluorophenyl)acetate (5.2 g, 29 mmol) and 1-bromo-2-(2-bromoethoxy)ethane (6.6 g, 29 mmol) in 20 mL ether. The mixture was allowed to warm to room temperature and stirred for 5 hours, M+1=253. The mixture was then carefully quenched with 100 mL H2O, and the pH was adjusted to 5. The mixture was extracted with ether (3×100 mL). The combined organic layers were washed with H2O (3×50 mL) and brine (20 mL). The combined organic layers were then dried over anhydrous Na2SO4 and concentrated in vacuo to give 7.1 g of the crude product as a pale yellow oil. MS (m/z)=253 (M+H)+.

reactant | NaH | 71 mmol, 1.7 g | [H-].[Na+]
reactant | ethyl 2-(4-fluorophenyl)acetate | 29 mmol, 5.2 g | FC1=CC=C(C=C1)CC(=O)OCC | C10H11FO2
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 29 mmol, 6.6 g | BrCCOCCBr | C4H8Br2O
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
solvent | ether | 20 mL | CCOCC | C4H10O
product | Ethyl 4-(4-fluorophenyl)-tetrahydro-2H-pyran-4-carboxylate | 7.1 g | FC1=CC=C(C=C1)C1(CCOCC1)C(=O)OCC | C14H17FO3
